US07098226B2
Next, 6 N hydrochloric acid (96.8 ml, 581 mmol) was added to diethyl 2-methyl-2-(4-pyridylmethyl)malonate (17.2 g, 64.6 mmol), and the mixture was refluxed overnight. The reaction mixture was allowed to stand, then washed with hexane (100 ml) to remove sodium hydride oil contained in diethyl 2-methyl-2-(4-pyridylmethyl)malonate, and concentrated under reduced pressure. The resulting crystals were filtered off with ethyl acetate to give 10.7 g (82%) of 2-methyl-3-(4-pyridyl)propionic acid as pale pink crystals.

reactant | hydrochloric acid | 581 mmol, 6 N, 96.8 ml | Cl | ClH
reactant | diethyl 2-methyl-2-(4-pyridylmethyl)malonate | 64.6 mmol, 17.2 g | CC(C(=O)OCC)(C(=O)OCC)CC1=CC=NC=C1 | C14H19NO4
product | 2-methyl-3-(4-pyridyl)propionic acid | 10.7 g, 82% | CC(C(=O)O)CC1=CC=NC=C1 | C9H11NO2
